US04464361
To N6 -(5-oxo-2-pyrrolidinyl)adenosine 2',3',5'-triacetate (2.2 g) was added cold ammonia-saturated methanol (40 ml), and the resulting mixture was allowed to stand in a refrigerator (at 4° C.) overnight. Next morning the solvent was removed at room temperature. To the residue was added a small amount of methanol and the mixture was allowed to stand at room temperature. The resulting precipitate was recovered by filtration and dried to give N6 -(5-oxo-2-pyrrolidinyl)adenosine as crystals (1.098 g).

reactant | N6 -(5-oxo-2-pyrrolidinyl)adenosine 2',3',5'-triacetate | 2.2 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NC3NC(CC3)=O)=NC=NC12 | C20H24N6O8
solvent | ammonia | 40 ml | N | H3N
product | N6 -(5-oxo-2-pyrrolidinyl)adenosine | 1.098 g | O=C1CCC(N1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C14H18N6O5
